US04607126
n-Butylglyoxal dimethylacetal
1 liter of a solution of 237 g (1.5 moles) of n-butylacrolein dimethylacetal in methanol is reacted with ozone analogously to the procedure indicated in Example 1 and is then hydrogenated. The absorption of H2 is 29 standard liters.

reactant | n-butylacrolein dimethylacetal | 1.5 moles, 237 g | COC(C=C)(CCCC)OC | C9H18O2
reactant | ozone | O=[O+][O-] | O3
solvent | methanol | CO | CH4O
product | n-Butylglyoxal dimethylacetal | COC(C=O)(CCCC)OC | C8H16O3
